US04820698
6.95 g (17.4 mmol) of tetra-n-butyl methylenebisphosphonate, 2.61 g (86.8 mmol) of paraformaldehyde and 1.27 g (17.4 mmol) of diethylamine are combined with the same reactants and the same conditions as described above in Example I. This mixture is then refluxed for 46 hours. After the methanol is eliminated as described above in Example I, 4.72 g of tetra-n-butyl ethenylidenebisphosphonate is produced as a clear liquid.

reactant | tetra-n-butyl methylenebisphosphonate | 17.4 mmol, 6.95 g | C(P(OCCCC)(OCCCC)=O)P(OCCCC)(OCCCC)=O | C17H38O6P2
reactant | paraformaldehyde | 86.8 mmol, 2.61 g | C=O | CH2O
reactant | diethylamine | 17.4 mmol, 1.27 g | C(C)NCC | C4H11N
solvent | methanol | CO | CH4O
product | tetra-n-butyl ethenylidenebisphosphonate | 4.72 g | C(=C)(P(OCCCC)(OCCCC)=O)P(OCCCC)(OCCCC)=O | C18H38O6P2
